US05604226
Synthesis of 4-bromo-5-(3,4-dimethoxyphenylmethylamino)-6-[2-(4-nitrophenylthio)ethyloxy]-3(2H)-pyridazinone (Compound 39)
1.5 g of 4,5-dibromo-6-[2-(4-nitrophenylthio)ethyloxy]-3(2H)-pyridazinone and 1.32 g of 3,4-dimethoxyphenylmethyl amine were disolved in water-dioxane (1:1) and refluxed for 7 hr. The reaction mixture was cooled to room temperature. The resulting crystals was collected by filtration and recrystallized from dioxane to give 1.1 g of the objective compound. Yield, 60%, Melting point, 170°-171° C.

reactant | 4,5-dibromo-6-[2-(4-nitrophenylthio)ethyloxy]-3(2H)-pyridazinone | 1.5 g | BrC=1C(NN=C(C1Br)OCCSC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H9Br2N3O4S
reactant | 3,4-dimethoxyphenylmethyl amine | 1.32 g | COC=1C=C(C=CC1OC)CN | C9H13NO2
solvent | water dioxane | O.O1CCOCC1
product | 4-bromo-5-(3,4-dimethoxyphenylmethylamino)-6-[2-(4-nitrophenylthio)ethyloxy]-3(2H)-pyridazinone | 1.1 g | BrC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCSC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H21BrN4O6S
